US06066311
Ethyl caffeate was prepared as follows. Caffeic acid (1 g) was boiled under reflux in absolute ethanol (30 ml) in the presence of concentrated sulphuric acid (0.5 ml) for two hours. The reaction mixture was then poured into water (100 ml), and then ethyl acetate (100 ml) and 0.1M sodium bicarbonate solution (100 ml) were added. The organic phase was washed successively with 0.1M sodium bicarbonate solution (3×100 ml) and water (2×100 ml) before being dried (sodium sulphate, anhydrous), filtered and evaporated under vacuum to yield a tan coloured crystalline solid. The product was recrystallised from water giving ethyl caffeate as a tan coloured powder in 43% yield. mp 142-143° C.

reactant | Caffeic acid | 1 g | C(\C=C\C1=CC(O)=C(O)C=C1)(=O)O | C9H8O4
reactant | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 100 ml | O | H2O
reactant | sodium bicarbonate | 0.1M, 100 ml | C([O-])(O)=O.[Na+]
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | ethyl caffeate | C(\C=C\C1=CC(O)=C(O)C=C1)(=O)OCC | C11H12O4
